US09353066B2
A suspension of methyl 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylate (550 mg, 1.420 mmol) and aqueous sodium hydroxide (1 M, 1.63 mL, 1.63 mmol) in methanol (9 mL) was heated to 110° C. for 10 minutes in a microwave reactor. The reaction mixture was then diluted with aqueous hydrochloric acid (2 M, 0.89 mL, 1.78 mmol), brine (20 mL), and ethyl acetate (50 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (15 mL). The combined organic layers were washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid. MS ESI calc'd. for C19H15F3N3O2 [M+H]+ 374, found 374.

reactant | methyl 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylate | 1.420 mmol, 550 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(=O)OC | C20H16F3N3O2
reactant | sodium hydroxide | 1.63 mmol, 1 M, 1.63 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.78 mmol, 2 M, 0.89 mL | Cl | ClH
solvent | methanol | 9 mL | CO | CH4O
solvent | brine | 20 mL | [Cl-].[Na+].O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carboxylic acid | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C(=O)O | C19H14F3N3O2
